US06150533
N-[2-(2-Amino-3-nitro-phenoxy)-ethyl]-2,2,2-trifluoro-N-[3-(1H-indol-3-yl)-propyl]-acetamide
To a solution containing triethylamine (3.15 ml, 22.6 mmol) and 2-{2-[3-(1H-indol-3-yl)-propylamino]-ethoxy}-6-nitro-phenylamine (4.0 g, 11.3 mmol) in methylene chloride (60 ml) at 60° C. was added slowly trifluoroacetic anhydride (1.88 ml, 13.3 mmol). The mixture was stirred at room temperature for two 2 hours. The solvent was removed under vacuum and the residue was partitioned between ethyl acetate (100 ml) and saturated sodium bicarbonate (100 ml). The organic layer was separated and washed with water (100 ml) and brine (100 ml) and then dried over anhydrous magnesium sulfate. Concentration to give crude product, followed by purification by chromatography, gave 3.5 g (69.1%) of product as a viscous reddish orange oil; MS EI m/e 450 (M+).

reactant | triethylamine | 22.6 mmol, 3.15 ml | C(C)N(CC)CC | C6H15N
reactant | 2-{2-[3-(1H-indol-3-yl)-propylamino]-ethoxy}-6-nitro-phenylamine | 11.3 mmol, 4.0 g | N1C=C(C2=CC=CC=C12)CCCNCCOC1=C(C(=CC=C1)[N+](=O)[O-])N | C19H22N4O3
reactant | trifluoroacetic anhydride | 13.3 mmol, 1.88 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | N-[2-(2-Amino-3-nitro-phenoxy)-ethyl]-2,2,2-trifluoro-N-[3-(1H-indol-3-yl)-propyl]-acetamide | 3.5 g, 69.1% | NC1=C(OCCN(C(C(F)(F)F)=O)CCCC2=CNC3=CC=CC=C23)C=CC=C1[N+](=O)[O-] | C21H21F3N4O4
